US06235731B1
2) Synthesis of tert-butyl 4-(4-phenylpiperidinomethyl)piperidine-1-carboxylate
A mixture of 3.081 g (11.075 mM) of tert-butyl 4-(bromomethyl)piperidine-1-carboxylate, 1.96 g (12.2 mM) of 4-phenylpiperidine, and 3.06 g (22.2 mM) of potassium carbonate was stirred in 20 ml of N,N-dimethylformamide at 110° C. for 4 hours. This reaction mixture was poured in water and extracted with 2 portions of diethyl ether. The organic layers were combined and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1) to provide the title compound.

reactant | tert-butyl 4-(bromomethyl)piperidine-1-carboxylate | 11.075 mM, 3.081 g | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
reactant | 4-phenylpiperidine | 12.2 mM, 1.96 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | potassium carbonate | 22.2 mM, 3.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | tert-butyl 4-(4-phenylpiperidinomethyl)piperidine-1-carboxylate | C1(=CC=CC=C1)C1CCN(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C | C22H34N2O2
